US07112593B2
b) 1-tert-Butoxycarbonyl-3-ethynyl-3-piperidinol
In a dry ice-acetone bath, 40 ml of a 1.6 M hexane solution of n-butyllithium was added dropwise to a solution of 6.07 g of trimethylsilylacetylene in 100 ml of tetrahydrofuran. After the temperature was once elevated to 0° C., the mixture was cooled again in a dry ice-acetone bath and a solution of 5.97 g of 1-tert-butoxycarbonylpiperidin-3-one in 50 ml of tetrahydrofuran was added dropwise thereto. After 1 hour, aqueous ammonia chloride was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and then evaporated. The residue was purified by silica gel column chromatography with 30% ethyl acetate/hexane. To the resulting compound were added 10 g of anhydrous potassium carbonate and 100 ml of methanol, followed by stirring for 2 hours. Water was added thereto, and the mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated, to give 4.8 g of the title compound.

reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethylsilylacetylene | 6.07 g | C[Si](C)(C)C#C | C5H10Si
reactant | 1-tert-butoxycarbonylpiperidin-3-one | 5.97 g | C(C)(C)(C)OC(=O)N1CC(CCC1)=O | C10H17NO3
reactant | ammonia chloride | [Cl-].N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | 1-tert-Butoxycarbonyl-3-ethynyl-3-piperidinol | 4.8 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(O)C#C | C12H19NO3
